US06521664B1
7-Phenylheptanoic acid was prepared from E-7-phenylhept-4-enoic acid by hydrogenation at 40 psi using 5% palladium on carbon as the catalyst. Quantitative conversion of the alkene to the alkane was observed by thin layer chromatographic analysis. The product acid was purified by chromatography on silica gel and fully characterized by spectroscopic methods (infrared and nuclear magnetic resonance) and combustion analysis.

reactant | E-7-phenylhept-4-enoic acid | C1(=CC=CC=C1)CC/C=C/CCC(=O)O | C13H16O2
catalyst | palladium on carbon | [Pd] | Pd
product | 7-Phenylheptanoic acid | C1(=CC=CC=C1)CCCCCCC(=O)O | C13H18O2
